US07479502B2
Bromine (7.22 g) was added to a stirring mixture of 5-amino-3-chloro-2-cyanopyridine (4.61 g) and sodium acetate (4.81 g) in anhydrous acetic acid (150 mL) at room temperature. The mixture was stirred at 60° C. for 2 hours. The solvents and excess bromine were evaporated and the residue was recrystalliezed from ethyl acetate to give 5-amino-6-bromo-3-chloro-2-cyano-pyridine (6.23 g).

reactant | Bromine | 7.22 g | BrBr | Br2
reactant | 5-amino-3-chloro-2-cyanopyridine | 4.61 g | NC=1C=C(C(=NC1)C#N)Cl | C6H4ClN3
reactant | sodium acetate | 4.81 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 150 mL | C(C)(=O)O | C2H4O2
product | 5-amino-6-bromo-3-chloro-2-cyano-pyridine | 6.23 g | NC=1C=C(C(=NC1Br)C#N)Cl | C6H3BrClN3
